US07820699B2
6.4 Using general procedure F 2-{(R)-3-[(5-chloro-thiophene-2-carbonyl)-amino]-pyrrolidin-1-yl}-propionic acid ethyl ester was reacted with 1-(4-amino-3-fluoro-phenyl)-1H-pyridin-2-one (CAS 536747-52-1, prepared according to WO 2003045912) to give 5-chloro-thiophene-2-carboxylic acid ((R)-1-{1-[2-fluoro-4-(2-oxo-pyridin-1-yl)-phenylcarbamoyl]-ethyl}-pyrrolidin-3-yl)-amide. Yellow solid. MS 487.4 ([M−H]−)

reactant | 2-{(R)-3-[(5-chloro-thiophene-2-carbonyl)-amino]-pyrrolidin-1-yl}-propionic acid ethyl ester | C(C)OC(C(C)N1C[C@@H](CC1)NC(=O)C=1SC(=CC1)Cl)=O | C14H19ClN2O3S
reactant | 1-(4-amino-3-fluoro-phenyl)-1H-pyridin-2-one | NC1=C(C=C(C=C1)N1C(C=CC=C1)=O)F | C11H9FN2O
product | 5-chloro-thiophene-2-carboxylic acid ((R)-1-{1-[2-fluoro-4-(2-oxo-pyridin-1-yl)-phenylcarbamoyl]-ethyl}-pyrrolidin-3-yl)-amide | FC1=C(C=CC(=C1)N1C(C=CC=C1)=O)NC(=O)C(C)N1C[C@@H](CC1)NC(=O)C=1SC(=CC1)Cl | C23H22ClFN4O3S
